US07189851B2
Ethyl (9aS)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-5-oxo-2-(3-thienylmethyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
A stirred solution of 28 mg (0.060 mmol) of 4-[(9aS)-3-(ethoxycarbonyl)-5-oxo-2-(3-thienylmethyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid, 14 mg (1.2 equiv, 0.072 mmol) of EDCI and 10 mg (1.2 equiv., 0.072 mmol) of HOBT in 1 mL of DCM was treated with 13 mg (2.2 equiv., 0.133 mmol) of 2-furfurylamine. The resulting solution was stirred at room temperature for 3 h. The reaction mixture was then poured into Et2O (10 mL) and extracted with H2O (1×10 mL) and NaHCO3 (1×10 mL). The organic layer was separated, dried (MgSO4), filtered to remove solids, and concentrated in vacuo. The resulting crude material was purified by silica gel chromatography on an Elution Solutions medium pressure chromatography system using a gradient elution of hexanes/EtOAc 1:1 to 1:4 to afford a clear golden oil. The oil was then triturated with Et2O to afford 22 mg (68%) the title compound as a light yellow solid: 1H NMR (CDCl3, 400 MHz) δ 7.78 (d, 2H, J=7.9), 7.40 (d, 2H, J=7.9), 7.35 (s, 1H), 7.19 (m, 1H), 7.02 (s, 1H), 6.97 (d, 1H, J=4.8), 6.47 (m, 1H), 6.29 (d, 2H, J=15.4), 4.70 (dd, 1H, J=6.3, 10.2), 4.61 (d, 2H, J=5.4), 4.33 (AB quartet, 2H, J=14.5, 41.7), 3.86 (q, 2H, J=6.9), 3.65 (m, 1H), 2.47 (m, 1H), 2.30 (m, 2H), 1.41 (m, 1H), 1.22 (m, 2H), 1.18 (t, 3H, J=6.9); low resolution MS (ES+) m/e 543, (MH+1), 542 (MH+); TLC (hexanes/EtOAc (1:5)): Rf=0.25; HPLC (Dynamax RP-18, 4.6 mm×25 cm; 50–100% CH3CN/H2O with 0.1% TFA; 25 minutes; 1 mL/min): tR=7.73 min, 97% purity; Anal. (C30H27N3O5S) Calc. C, 66.53; H, 5.02; N, 7.76. Found C, 66.26; H, 4.87; N, 7.96.

reactant | 4-[(9aS)-3-(ethoxycarbonyl)-5-oxo-2-(3-thienylmethyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]benzoic acid | 0.060 mmol, 28 mg | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CC1=CSC=C1)C1=CC=C(C(=O)O)C=C1 | C25H22N2O5S
reactant | EDCI | 0.072 mmol, 14 mg, 1.2 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.072 mmol, 10 mg, 1.2 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-furfurylamine | 0.133 mmol, 13 mg, 2.2 equiv. | C1=COC(=C1)CN | C5H7NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | Ethyl (9aS)-4-(4-{[(2-furylmethyl)amino]carbonyl}phenyl)-5-oxo-2-(3-thienylmethyl)-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | 22 mg, 68% | O1C(=CC=C1)CNC(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CC2=CSC=C2)C(=O)OCC | C30H27N3O5S
